US04916148
A mixture of 7-methylnaphth-2-ol (5 g), thioglycolic acid (3 g), sodium hydroxide (2 g) and ethylene glycol (10 ml) was stirred at 145° under an atmosphere of argon for 20 h. The mixture was cooled, water (100 ml) was added, and the mixture was heated at 90° for 2 h. The mixture was then washed with ethyl acetate and the aqueous phase was separated, acidified with concentrated hydrochloric acid, and extracted twice with ethyl acetate. The ethyl acetate extracts were combined, dried and evaporated to dryness under reduced pressure, and the residue was triturated with toluene. The insoluble solid thus produced was filtered off, washed with toluene and dried to give 2-hydroxy-7-methyl-1-naphthylacetic acid, m.p. 138°-140°.

reactant | 7-methylnaphth-2-ol | 5 g | CC1=CC=C2C=CC(=CC2=C1)O | C11H10O
reactant | thioglycolic acid | 3 g | C(CS)(=O)O | C2H4O2S
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 2-hydroxy-7-methyl-1-naphthylacetic acid | OC1=C(C2=CC(=CC=C2C=C1)C)CC(=O)O | C13H12O3
